US04990531
1-[4-(dimethylamino)benzenesulphonyl-2-pyrrolidinone
3.44 g of sodium hydride (at 55-60% in oil) is added to a solution comprising 6.11 g of 2-pyrrolidinone and 200 cm3 of dioxan, with agitation for one hour at ambient temperature. 15.76 cm3 of 4-dimethylaminobenzenesulphonyl chloride [Beritche 43, 3038 (1910)]in solution in 250 cm3 of dioxan is added drop by drop, with agitation for one hour at ambient temperature. The sodium chloride is filtered off on celite, the dioxan is evaporated off under reduced pressure, the residue is crystallized from acetone and 3.90 g of expected product is obtained.

reactant | sodium hydride | 3.44 g | [H-].[Na+]
reactant | 2-pyrrolidinone | 6.11 g | N1C(CCC1)=O | C4H7NO
reactant | 4-dimethylaminobenzenesulphonyl chloride | 15.76 cm3 | CN(C1=CC=C(C=C1)S(=O)(=O)Cl)C | C8H10ClNO2S
solvent | dioxan | 250 cm3 | O1CCOCC1 | C4H8O2
solvent | dioxan | 200 cm3 | O1CCOCC1 | C4H8O2
product | 4-(dimethylamino)benzenesulphonyl-2-pyrrolidinone | 3.90 g | CN(C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)=O)C | C12H16N2O3S
